US06576644B2
4-[[(3-Chloro-4-methoxyphenyl)methyl]amino ]-6-quinolinecarbonitrile
To 2.16 g (5.87 mmol) 4-[[(3-chloro-4 -methoxyphenyl)-methyl]amino]-6-cyano-3-quinolinecarboxylic acid was added 50 mL diphenyl ether (Aldrich), and nitrogen was vigorously bubbled through this mixture for 20 minutes. The resulting mixture was then heated to 240° C. under nitrogen for 30 minutes. During the course of the reaction, the dispersed starting material slowly dissolved, and gas evolution was observed. The resulting solution was poured into 200 mL hexane, and a precipitated solid was filtered to yield 1.43 g (4.42 mmol, 75% yield) of the title compound as a off-white solid: LC/MS: M/Z 324 (M+H) observed, 96% purity; mp: decomposed 227-230° C. LC: 2.84′.

reactant | 4-[[(3-chloro-4 -methoxyphenyl)-methyl]amino]-6-cyano-3-quinolinecarboxylic acid | 5.87 mmol, 2.16 g | ClC=1C=C(C=CC1OC)CNC1=C(C=NC2=CC=C(C=C12)C#N)C(=O)O | C19H14ClN3O3
reactant | diphenyl ether | 50 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | hexane | 200 mL | CCCCCC | C6H14
product | 4-[[(3-Chloro-4-methoxyphenyl)methyl]amino ]-6-quinolinecarbonitrile | 4.42 mmol, 1.43 g, 75% yield | ClC=1C=C(C=CC1OC)CNC1=CC=NC2=CC=C(C=C12)C#N | C18H14ClN3O
